US04937251
4-[3-[(6-Bromohexyl)oxy]propyl]pyridine
From 4-pyridinepropanol (2.0 g) and 1,6-dibromohexane (8 ml), with a reaction time of 30 min. FCC eluting with hexane→ether gave the title compound as a colourless oil (1.1 g), t.l.c. (ether) Rf 0.45.

reactant | 4-pyridinepropanol | 2.0 g | N1=CC=C(C=C1)CCCO | C8H11NO
reactant | 1,6-dibromohexane | 8 ml | BrCCCCCCBr | C6H12Br2
product | 4-[3-[(6-Bromohexyl)oxy]propyl]pyridine | 1.1 g | BrCCCCCCOCCCC1=CC=NC=C1 | C14H22BrNO
